US07511145B2
The crude 2-chloro-3-nitro-benzoic acid ethyl ester was dissolved in acetonitrile (100 mL) and cyclohexylamine (2.5 mL, 21.83 mmol) was added. The mixture was stirred at reflux overnight. After evaporation of solvent, water (100 mL) was added and the precipitates were collected by filtration and dried to give 2-cyclohexylamino-3-nitro-benzoic acid ethyl ester (1.168 g, 95%). MS: 293.16 (M+H+).

reactant | 2-chloro-3-nitro-benzoic acid ethyl ester | C(C)OC(C1=C(C(=CC=C1)[N+](=O)[O-])Cl)=O | C9H8ClNO4
reactant | cyclohexylamine | 21.83 mmol, 2.5 mL | C1(CCCCC1)N | C6H13N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 2-cyclohexylamino-3-nitro-benzoic acid ethyl ester | 1.168 g, 95% | C(C)OC(C1=C(C(=CC=C1)[N+](=O)[O-])NC1CCCCC1)=O | C15H20N2O4
